US07217726B2
Synthesis of (S)-N-[3-[3-fluoro-4-[4-(morpholin-4-ylcarbonyl)piperazin-1-yl]phenyl]-2-oxooxazolidin-5-ylmethyl]acetamide
(S)-N-[3-[3-Fluoro-4-[piperazin-1-yl]phenyl]-2-oxooxazolidin-5-ylmethyl]acetamide (154 mg, 0.4587 mmol) was treated with morphonylcarbonylchloride (82 mg, 0.5504 mmol) and anhydrous potassium carbonate (190 mg, 1.376 mmol) in dimethylformamide (10 ml). The reaction mixture was allowed to react at 30° C. for 8 hrs, after which the reaction mixture was extracted with ethylacetate and water. The organic phase was separated and evaporated under reduced pressure to afford crude product. The crude was purified by column chromatography using silica gel using ethylacetate and methanol (9:1) as the eluent to afford pure title compound as colourless solid (85 mg).

reactant | (S)-N-[3-[3-Fluoro-4-[piperazin-1-yl]phenyl]-2-oxooxazolidin-5-ylmethyl]acetamide | 0.4587 mmol, 154 mg | FC=1C=C(C=CC1N1CCNCC1)N1C(O[C@H](C1)CNC(C)=O)=O | C16H21FN4O3
reactant | potassium carbonate | 1.376 mmol, 190 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (S)-N-[3-[3-fluoro-4-[4-(morpholin-4-ylcarbonyl)piperazin-1-yl]phenyl]-2-oxooxazolidin-5-ylmethyl]acetamide | 85 mg | FC=1C=C(C=CC1N1CCN(CC1)C(=O)N1CCOCC1)N1C(O[C@H](C1)CNC(C)=O)=O | C21H28FN5O5
